US05914328
3-(2-(S)-azetidinylmethoxy)-6-chloropyridazine hydrochloride
A 811 mg sample of 3-(1-BOC-2(S)-azetidinylmethoxy)-6-chloro-pyridazine, prepared as in Example 13a above, was dissolved in 10 mL of satd HCl in ethanol cooled to 0° C., and the reaction was stirred at room temperature for 16 hours. The solvent was removed under vacuum, and the oily residue was dried under high vacuum for 4 hours to provide a solid. The solid was triturated with ether, collected, and recrystallized three times from ethanol/ether to give 118 mg of the title compound. mp 150-151° C. MS (DCI/NH3) m/e: 200 (M+H)+. 1H NMR (DMSO 4,300 MHz) δ: 9.31 (br s, 1H), 7,87 (d, J=9.2 Hz, 1H), 7.44 (d, J=9.2 Hz, 1H), 4.84-4.63 (m, 3H), 3.98-3.83 (m, 2H), 2.59-2.36 (m, 2H). Anal. Calc. for C8H11N3OCI2 : C, 40.70; H, 4.70; N, 17.80; Found C, 40.58; H, 4.59; N, 17.58.

reactant | 3-(1-BOC-2(S)-azetidinylmethoxy)-6-chloro-pyridazine | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1N=NC(=CC1)Cl | C13H18ClN3O3
solvent | HCl | 10 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-(S)-azetidinylmethoxy)-6-chloropyridazine hydrochloride | 118 mg | Cl.N1[C@@H](CC1)COC=1N=NC(=CC1)Cl | InChI=1S/C8H10ClN3O.ClH/c9-7-1-2-8(12-11-7)13-5-6-3-4-10-6;/h1-2,6,10H,3-5H2;1H/t6-;/m0./s1
